US05082847
8-Phenylmethoxy-3,4-dihydro-5-hydroxycarbostyril (32.5 g) was dissolved in ethanol (300 mL). Potassium carbonate (25 g) and epichlorohydrin (45 g) were added to the solution, and the mixture heated under reflux for four hours. After cooling, the ethanol was evaporated and water added. The aqueous solution was then extracted with methylene chloride, the resulting solution was washed with water, dried over sodium sulfate and the methylene chloride was evaporated under reduced pressure. The residue was worked up with diisopropyl ether (10 mL), yielding 35 g of 8-phenylmethoxy-5-(2,3-epoxypropoxy)-3,4-dihydrocarbostyril, m.p. 106°-108° C.

reactant | 8-Phenylmethoxy-3,4-dihydro-5-hydroxycarbostyril | 32.5 g | C1(=CC=CC=C1)COC=1C=CC(=C2CCC(NC12)=O)O | C16H15NO3
reactant | Potassium carbonate | 25 g | C([O-])([O-])=O.[K+].[K+]
reactant | epichlorohydrin | 45 g | C(Cl)C1CO1 | C3H5ClO
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 8-phenylmethoxy-5-(2,3-epoxypropoxy)-3,4-dihydrocarbostyril | 35 g | C1(=CC=CC=C1)COC=1C=CC(=C2CCC(NC12)=O)OCC1CO1 | C19H19NO4
